US07704993B2
Step 6: Preparation of (R)-N-Trifluoroacetyl-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine.
A solution of (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride salt (1.0 g, 4.31 mmol) in dichloromethane (50 mL) at 0° C. was treated with pyridine (1.0 mL) and trifluoroacetic anhydride (1.35 g, 6.46 mmol). This was warmed to 20° C., stirred for 3 h and diluted with 1M HCl (25 mL). This was extracted with dichloromethane (2×50 mL) and the organics dried with MgSO4, filtered and concentrated to give 1.17 g as an off-white solid. 1H NMR (400 MHz, CDCl3, mixture of rotamers) δ 7.27 (m, 1H), 6.96 (m, 1H), 4.26 (bm, 0.6H), 4.19-4.03 (m, 1.7H), 3.92-3.87 (m, 0.8H), 3.75-3.69 (m, 0.8H), 3.47-3.22 (m, 2H), 2.91 (m, 1H), 1.28-1.25 (m, 3H). MS calculated for C13H13ClF3NO+H: 292, observed: 292.

reactant | (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride salt | 4.31 mmol, 1.0 g | Cl.ClC=1C=CC2=C([C@H](CNCC2)C)C1
reactant | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 6.46 mmol, 1.35 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | HCl | 1M, 25 mL | Cl | ClH
product | (R)-N-Trifluoroacetyl-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | FC(C(=O)N1CCC2=C([C@H](C1)C)C=C(C=C2)Cl)(F)F | C13H13ClF3NO
